US05112866
N-[2-(Fluorosulfonyl)ethyl]-3,4-dimethoxy-N-methylphenethylamine
The reaction between 3,4-dimethoxy-N-methylphenethylamine (15 mmol) and ethenesulfonyl fluoride (1.65 mL, 19 mmol) was carried out in DMF (30 mL) at ambient temperature for 3 hours as described in Example 16. There was obtained an orange liquid which was crystallized from ether/methanol to afford the title compound as a yellow solid (0.14 g, 11% yield), mp 200°-204° C.

reactant | 3,4-dimethoxy-N-methylphenethylamine | 15 mmol | COC=1C=C(CCNC)C=CC1OC | C11H17NO2
reactant | ethenesulfonyl fluoride | 19 mmol, 1.65 mL | C(=C)S(=O)(=O)F | C2H3FO2S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N-[2-(Fluorosulfonyl)ethyl]-3,4-dimethoxy-N-methylphenethylamine | 0.14 g, 11% yield | FS(=O)(=O)CCN(C)CCC1=CC(=C(C=C1)OC)OC | C13H20FNO4S
